US07662811B2
To a solution of (S)-2,2,2-trifluoro-1-(6-hydroxy-3,4,6,7,8,9-hexahydrobenzo[g]isoquinolin-2(1H)-yl)ethanone (3.0 g, 10 mmol) in 30 mL of toluene at −10° C. was added DPPA (2.6 mL, 12 mmol). To this stirred solution was then added DBU (1.8 mL, 12 mmol) dropwise while keeping the temperature below 0° C. After stirring at room temperature overnight, 7 mL of 10% HCl was added and the resulting solution was evaporated to dryness and directly submitted to flash chomatography (SiO2, hexane/EtOAc=100:10 to 100:15 to 100:20) to afford (R)-1-(6-azido-3,4,6,7,8,9-hexahydrobenzo[g]-isoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone as a colorless oil which was directly used in the next step.

reactant | (S)-2,2,2-trifluoro-1-(6-hydroxy-3,4,6,7,8,9-hexahydrobenzo[g]isoquinolin-2(1H)-yl)ethanone | 10 mmol, 3.0 g | FC(C(=O)N1CC2=CC3=C(C=C2CC1)[C@H](CCC3)O)(F)F | C15H16F3NO2
reactant | DPPA | 12 mmol, 2.6 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 12 mmol, 1.8 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | 7 mL | Cl | ClH
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-1-(6-azido-3,4,6,7,8,9-hexahydrobenzo[g]-isoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone | N(=[N+]=[N-])[C@@H]1CCCC2=C1C=C1CCN(CC1=C2)C(C(F)(F)F)=O | C15H15F3N4O
